US07838517B2
5,6,7,8-tetrahydro-7,7-dimethyl-2-(pyridin-4-yl)thiazolo[5,4-c]azepin-4-one (I-1)
2-bromo-5,6,7,8-tetrahydro-7,7-dimethylthiazolo[5,4-c]azepin-4-one (200 mg, 1.0 Eq.), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (224 mg, 1.5 Eq.), Pd(DBA)2 (42 mg, 0.1 Eq.) and sodium carbonate (2M aq., 1090 μl, 3.0 Eq.) were suspended/dissolved in dioxane (4 mL). The system was degassed using vacuum/N2 cycles three times. P(tBu)3 (42 mg, 0.1 Eq.) was then added and the reaction mixture stirred at 80° C. overnight. The reaction mixture was allowed to cool to room temperature. The reaction mixture was partitioned in EtOAc/H2O and filtered through celite, which was washed copiously with EtOAc/H2O. The filtrate was partitioned and the aqueous was extracted with EtOAc (3×20 mL). The combined organics were washed with sat. aq. Na2CO3 (1×20 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. Purification by column chromatography (5% MeOH/95% EtOAc, followed by recrystallization from EtOAc/Hexanes gave the title compound was isolated as a brown powder (19.6 mg, 10% yield); 1H NMR (DMSO D6) 1.0 (6H, s), 3.0 (4H, m), 7.7-7.8 (2H, d), 8.3 (1H, br m), 8.7-8.8 (2H, d); LC/MS M+1 (obs.) 274.60; LC/MS M−1 (obs.) 272.80.

reactant | 2-bromo-5,6,7,8-tetrahydro-7,7-dimethylthiazolo[5,4-c]azepin-4-one | 200 mg, 1.0 Eq. | BrC=1SC=2C(NCC(CC2N1)(C)C)=O | C9H11BrN2OS
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 224 mg, 1.5 Eq. | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | sodium carbonate | 2M, 1090 μl, 3.0 Eq. | C([O-])([O-])=O.[Na+].[Na+]
reactant | P(tBu)3 | 42 mg, 0.1 Eq. | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(DBA)2 | 42 mg, 0.1 Eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 5,6,7,8-tetrahydro-7,7-dimethyl-2-(pyridin-4-yl)thiazolo[5,4-c]azepin-4-one | CC1(CC2=C(C(NC1)=O)SC(=N2)C2=CC=NC=C2)C | C14H15N3OS
